US07326813B2
42.8 kg (0.3 kmoles) of (2-chlorophenyl)methylamine was dissolved in 118.3 kg of dichloromethane and 32.2 kg (0.315 kmoles) of acetic anhydride was added dropwise at 20 to 40° C. over 1.5 hours, followed by aging at room temperature for 30 minutes. After the completion of the reaction, 60 kg of water was added 55.2 kg of an aqueous 25% sodium hydroxide solution was added dropwise at 20 to 40° C. over 20 minutes. The organic layer was partitioned to obtain 169.9 kg of a dichloromethane solution of N-[(2-chlorophenyl)methyl]acetamide.

reactant | (2-chlorophenyl)methylamine | 0.3 kmoles, 42.8 kg | ClC1=C(C=CC=C1)CN | C7H8ClN
reactant | acetic anhydride | 0.315 kmoles, 32.2 kg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 60 kg | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 118.3 kg | ClCCl | CH2Cl2
product | N-[(2-chlorophenyl)methyl]acetamide | ClC1=C(C=CC=C1)CNC(C)=O | C9H10ClNO
